US08378095B2
A solution of 2-(2,6-difluorophenyl)-5-(4-(morpholine-4-carbonyl)phenylamino)oxazole-4-carbonitrile (0.009 g, 0.022 mmol) in concentrated sulfuric acid (0.5 mL) was stirred at room temperature for 1.5 hours. The solution was neutralised by pouring into saturated sodium bicarbonate solution. The aqueous phase was then basified to pH14 using 5M NaOH and extracted with EtOAc. The combined organic phase was dried over MgSO4 and the solvent removed in vacuo to afford 2-(2,6-difluorophenyl)-5-(4-(morpholine-4-carbonyl)phenylamino)oxazole-4-carboxamide (0.007 g, 0.017 mmol, 77%) as a yellow solid. 1H NMR (DMSO) δ 3.51 (4H, m), 3.58 (4H, m), 7.32-7.47 (8H, m), 7.64 (1H, m), 9.55 (1H, s). LCMS (2) Rt: 2.14 min; m/z (ES+) 429.

reactant | 2-(2,6-difluorophenyl)-5-(4-(morpholine-4-carbonyl)phenylamino)oxazole-4-carbonitrile | 0.022 mmol, 0.009 g | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C#N)NC1=CC=C(C=C1)C(=O)N1CCOCC1 | C21H16F2N4O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | NaOH | 5M | [OH-].[Na+]
solvent | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
product | 2-(2,6-difluorophenyl)-5-(4-(morpholine-4-carbonyl)phenylamino)oxazole-4-carboxamide | 0.017 mmol, 0.007 g, 77% | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)N)NC1=CC=C(C=C1)C(=O)N1CCOCC1 | C21H18F2N4O4
